US07902187B2
2-(1H-benzo[d]imidazol-1-yl)-6-phenyl-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
To 30 mg (0.078 mmol) of crude 2-(1H-benzo[d]imidazol-1-yl)-6-phenyl-N4-(tetrahydro-2H-pyran-4-yl)pyrimidine-4,5-diamine in 3 mL THF was added CDI (38 mg, 0.233 mmol, 3 equiv.) and the reaction mixture was stirred at 50° C. for 18 h. The solvent was removed in vacuo and the residue purified by preparative TLC (silica gel, 5% methanol in methylene chloride) to afford the desired product (9.5 mg, 30% yield). 1H NMR (300 MHz, CDCl3) δ, ppm: 9.16 (br s, 1H), 8.68 (d, 1H), 8.06 (br m, 2H), 7.90 (d, 1H), 7.71-7.62 (m, 3H), 7.52-7.33 (m, 3H), 4.82-4.68 (m, 1H), 4.31-4.20 (m, 2H), 3.64 (app t, 2H), 3.01-2.82 (m, 2H), 1.89 (br d, 2H); MS (EI) m/z 413.2 (MH)+.

reactant | 2-(1H-benzo[d]imidazol-1-yl)-6-phenyl-N4-(tetrahydro-2H-pyran-4-yl)pyrimidine-4,5-diamine | 0.078 mmol, 30 mg | N1(C=NC2=C1C=CC=C2)C2=NC(=C(C(=N2)NC2CCOCC2)N)C2=CC=CC=C2 | C22H22N6O
reactant | CDI | 0.233 mmol, 38 mg, 3 equiv. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(1H-benzo[d]imidazol-1-yl)-6-phenyl-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 9.5 mg, 30% yield | N1(C=NC2=C1C=CC=C2)C2=NC(=C1NC(N(C1=N2)C2CCOCC2)=O)C2=CC=CC=C2 | C23H20N6O2
